US06472372B1
3-[4-(4-Pyridinyl)phenyl]-2-propenal
The title compound was prepared by a procedure analogous to Reference Example 30 by substituting 4-(4-pyridinyl)-benzaldehyde (prepared as described in WO 9828264) for the 4-(1H-pyrazol-1-yl)-benzaldehyde of Reference Example 30. MS 210 (M+H)+.

reactant | 4-(4-pyridinyl)-benzaldehyde | N1=CC=C(C=C1)C1=CC=C(C=O)C=C1 | C12H9NO
reactant | 4-(1H-pyrazol-1-yl)-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | 3-[4-(4-Pyridinyl)phenyl]-2-propenal | N1=CC=C(C=C1)C1=CC=C(C=C1)C=CC=O | C14H11NO
